US06656952B2
3-(S)-Amino-4-(S)-fluoromethylpyrrolidine dihydrochloride
Concentrated hydrochloric acid (1 ml) was added to 3-(S)-tert-butoxycarbonylamino-4-(S)-fluoromethylpyrrolidine (441 mg, 2.02 mmol) which was cooled in an ice bath, and the mixture was stirred for 10 minutes. The reaction solution was mixed with water (5 ml) and washed with dichloromethane (5 ml×3) and diethyl ether (5 ml×1). The aqueous layer was concentrated under a reduced pressure, and the resulting residue was purified by its recrystallization from methanol to give 288 mg (75%) of the title compound in the form of white crystals.

reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | 3-(S)-tert-butoxycarbonylamino-4-(S)-fluoromethylpyrrolidine | 2.02 mmol, 441 mg | C(C)(C)(C)OC(=O)N[C@@H]1CNC[C@@H]1CF | C10H19FN2O2
solvent | water | 5 ml | O | H2O
product | 3-(S)-Amino-4-(S)-fluoromethylpyrrolidine dihydrochloride | 288 mg, 75% | Cl.Cl.N[C@@H]1CNC[C@@H]1CF | InChI=1S/C5H11FN2.2ClH/c6-1-4-2-8-3-5(4)7;;/h4-5,8H,1-3,7H2;2*1H/t4-,5+;;/m0../s1
